US07723378B2
To a suspension of NaH (2.88 g, 60% dispersion in mineral oil, 60 mmol) in toluene (25 mL), EA (6.5 mL, 66 mmol) is added. The mixture is stirred at rt for 5 min before a solution of 4,4-dimethyl-cyclohexanone (2.52 g, 20 mmol) in EA (6 mL) is added. The mixture is heated to 55° C. where a vigorous reaction starts. The white to grey suspension turns orange and becomes clear. The clear solution is poured onto ice/water and is extracted with EA. The aq. phase is acidified to pH 4-5 and extracted once more with EA. The combined organic extracts are dried over Na2SO4 and the solvent is removed in vacuo to give 2-acetyl-4,4-dimethyl-cyclohexanone (2.00 g) as a yellow oil; 1H NMR (CDCl3): δ 2.35 (t, J=7.0 Hz, 2H), 2.12 (s, 2H), 2.10 (s, 1H), 1.48 (t, J=7.0 Hz, 2H), 0.98 (s, 6H).

reactant | NaH | 60 mmol, 2.88 g | [H-].[Na+]
reactant | 4,4-dimethyl-cyclohexanone | 20 mmol, 2.52 g | CC1(CCC(CC1)=O)C | C8H14O
reactant | EA | 6 mL | CC(OCC)=O | C4H8O2
reactant | EA | 66 mmol, 6.5 mL | CC(OCC)=O | C4H8O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-4,4-dimethyl-cyclohexanone | 2.00 g | C(C)(=O)C1C(CCC(C1)(C)C)=O | C10H16O2
